US06136823
Synthesis of Methyl 2,5-Difluoro-3-methyl-4-nitrobenzoate
Trifluoroacetic acid (50 ml), acetic acid (50 ml) and sodium perborate tetrahydrate (26.6 g) were added to methyl 4-amino-2,5-difluoro-3-methylbenzoate (7.5 g), and the mixture was stirred at 60° C. for 24 hours. Impurities in the reaction mixture was removed by filtration, chloroform was added to the resultant filtrate, and the resultant mixture was washed with water. After an organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to obtain the title compound (6.1 g) as a reddish brown oil.

reactant | Trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium perborate tetrahydrate | 26.6 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | methyl 4-amino-2,5-difluoro-3-methylbenzoate | 7.5 g | NC1=C(C(=C(C(=O)OC)C=C1F)F)C | C9H9F2NO2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | Methyl 2,5-Difluoro-3-methyl-4-nitrobenzoate | 6.1 g | FC1=C(C(=O)OC)C=C(C(=C1C)[N+](=O)[O-])F | C9H7F2NO4
